2130-09-02 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2130-9-1**] 12:28 PM
 IABP LINE - START [**2130-9-1**] 12:28 PM
 SHEATH - START [**2130-9-1**] 12:29 PM
 INVASIVE VENTILATION - START [**2130-9-1**] 12:45 PM
 PA CATHETER - START [**2130-9-1**] 01:46 PM
 ENDOSCOPY - At [**2130-9-1**] 05:03 PM following hematemesis -> possible
   lower esophageal tears, ? [**Doctor First Name 1856**]-[**Doctor Last Name **], no active bleeding, no
   intervention; GI service will follow closely
   Attempted to wean IABP overnight, at 1:4 BP started dropping, unable to
   wean
   Increased dopamine overnight, gave small 250 cc bolus of NS for SBPs in
   60s -> improved with volume and increased dopamine
   Integrelin off this morning
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Wheezing;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Codeine
   Lightheadedness
   Aspirin
   Unknown;
   Ranitidine
   Abdominal pain;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Heparin Sodium - 500 units/hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-9-2**] 05:58 AM
   Carafate (Sucralfate) - [**2130-9-2**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess [**1-9**] sedation
   Flowsheet Data as of  [**2130-9-2**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 79 (67 - 94) bpm
   BP: 92/35(60) {60/13(34) - 154/66(106)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 6 (2 - 10)mmHg
   PAP: (35 mmHg) / (15 mmHg)
   CO/CI (Fick): (5.5 L/min) / (3 L/min/m2)
   SvO2: 64%
   Mixed Venous O2% Sat: 64 - 66
   Total In:
                                                                  4,230 mL
                                                                    402 mL
   PO:
   TF:
   IVF:
                                                                  3,855 mL
                                                                    402 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    385 mL
                                                                    100 mL
   Urine:
                                                                    285 mL
                                                                    100 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,845 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.35/34/154/19/-5
   Ve: 6.4 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: dopplerable), (Left DP pulse: dopplerable)
   Skin:  warm
   Neurologic: Responds to: name/voice, Movement: Not assessed, Tone:
   normal
   HEENT
 PERRLa, EOMi, OG and ET tube in place
   CV
 heart sounds difficult to auscultate [**1-9**] IABP, systolic murmur
   noted at base and apex
   Pulm
 CTA anteriorly, coarse breath sounds on vent
   Abd
 soft, NT, ND, active BS, IABP heard.  Right groin with small
   hematoma, oozing from catheter site
   Ext
 no evidence of edema, 2+ pulses UEs, warm feet, <2 sec cap refill
   CXR
 IABP noted to be in proximal position near great vessels, PA
   catheter in good position, OG tube in gastric fundus
   Labs / Radiology
   132 K/uL
   10.1 g/dL
   327 mg/dL
   2.3 mg/dL
   19 mEq/L
   5.2 mEq/L
   68 mg/dL
   108 mEq/L
   136 mEq/L
   29.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2130-9-1**]  11:10 AM
                             [**2130-9-1**]  03:05 PM
                             [**2130-9-1**]  03:14 PM
                             [**2130-9-1**]  05:34 PM
                             [**2130-9-1**]  09:45 PM
                             [**2130-9-1**]  10:07 PM
                             [**2130-9-1**]  11:12 PM
                             [**2130-9-2**]  01:33 AM
                             [**2130-9-2**]  04:23 AM
                             [**2130-9-2**]  04:52 AM
   WBC
   11.2
   10.8
   Hct
   29
   26.5
   32
   34.2
   30.7
   30.8
   29.4
   Plt
   165
   132
   Cr
   2.0
   2.3
   TCO2
   18
   18
   18
   20
   Glucose
   365
   327
   Other labs: PT / PTT / INR:15.3/150.0/1.3, CK / CKMB /
   Troponin-T:6036/316/0.72, ALT / AST:318/741, Alk Phos / T Bili:88/1.6,
   Differential-Neuts:56.4 %, Lymph:40.6 %, Mono:1.7 %, Eos:1.1 %, Lactic
   Acid:2.5 mmol/L, LDH:[**2027**] IU/L, Ca++:8.1 mg/dL, Mg++:3.2 mg/dL, PO4:5.3
   mg/dL
   Assessment and Plan
   # CORONARIES: Patient presented with STEMI. During cath patient had
   successful thrombectomy of proximal LAD occlusion with 20% residual
   stenosis. However, developed acute occlusion of OM (due to an embolus)
   treated with thrombectomy and PTCA (2.5x12mm balloon) with a 60%
   residual thrombotic occlusion but restoration of flow. Patient was
   unstable during procedure and consequently was intubated and IABP
   placed. No stent was placed during procedure.
   - Continue integrillin 18 hours post cath -> now discontinued
   - Continue heparin while on IABP
   - Patient on Atorvastatin 10 mg outpatient, increase to 80 mg in
   setting of ACS
   - Continue dopamine for goal MAP 60, attempt to wean -> unable to wean
   overnight
   - will attempt to wean IABP today, will reach goal PA diastolic
   pressure of 25 via volume, then attempt to wean to 1:2, obtain SvO2,
   PaO2, and Hb and calculate cardiac index; if data shows stability, will
   continue 1:4, 1:8 as able
   - if pt tolerates 1:8 for 2 hours, will switch off heparin, switch to
   1:1, and remove IABP
   - Hold outpatient Lisinopril 10 mg due to hypotension
   - No B-blocker due to hypotension
   - Start ASA 325 mg
   - Start plavix in am for 12 months (however no stent placed)
   .
   # PUMP: ECHO s/p cath demonstrates EF 45% with mild regional left
   ventricular systolic dysfunction and dilated right ventricle with
   moderate regional systolic dysfunction. New changes secondary to ACS.
   Repeat TTE shows little change while on IABP 1:1
   - Patient will require ACE-I and B-blocker as outpatient, however cont
   to hold due to hypotension
   - Held outpatient Lasix 20 mg qd due to hypotension, no sign of volume
   overload
   .
   # RHYTHM: Sinus. Patient has history of A Fib, patient presumably on
   Verapamil for rate control. No anti-coagulation due to prior history of
   GI bleed.   Repeat ECG this morning showed left axis deviation and RBB
   block -> pt likely has left anterior fascicular block and RBB block,
   and is at high risk to develop complete heart block
   - will consult EP RE: ? indication for temp pacer wire placement ->
   appreciate recs
   - Hold VERAPAMIL 120 mg in setting of hypotension
   - serial ECGs
   .
   # Upper GI bleed: EGD demonstrates friable esophagus with blood clot at
   GE junction. Patient's HCT and hemodynamics currently stable. Due to
   ballon pump patient must remain on heparin anti-coagulation.
   Integrelin stopped this AM.
   - IV PPI [**Hospital1 **], carafate slurry 1 g QID, reglan per GI
   - appreciate GI recs -> if UGIB recurs, will contact GI for possible
   repeat endoscopy. Patient may require Sang-[**Doctor Last Name 4220**] tube
   - IR aware of pt, can contact if need for emergent embolization
   - q4hr HCT -> 26 this AM, will transfuse 2 units today
   - cross match 4 units
   - wean ballon pump today in order to stop heparin  .
   .
   # Diabetes: Insulin drip
   .
   # Hypertension: Hold outpatient Lisinopril, Lasix and Verapamil
   .
   # Chronic Renal Failure: Recent creatinine range as outpatient 1.3 -
   1.9.  Pt now has [**Last Name (un) **] this morning.  Possible etiologies include
   pre-renal physiology, cholesterol emboli, contrast-induced nephropathy,
   ATN, and IABP renal artery obstruction (unlikely given current
   position)
   - renal dose all meds
   - will ensure volume repletion with goal PA diastolic pressure of 25
   mmHg
   - monitor crea
   .
   # Asthma: Patient intubated.
   .
   # Gout: Hold Allopurinal in acute setting.
   .
   # GERD: IV PPI fo now, transition to po when stable.
   .
   FEN: NPO
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip, pneumo boots when heparin drip
   discontinued
   -Bowel regimen with senna, colace
   .
   CODE: Full Code - confirmed with [**Last Name (un) **]
   .
   COMM: [**Name (NI) 2729**] [**Name2 (NI) 10371**] [**Telephone/Fax (1) 10372**], [**Name2 (NI) 9565**] [**Telephone/Fax (1) 10373**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-9-1**] 12:04 PM
   Arterial Line - [**2130-9-1**] 12:28 PM
   IABP line - [**2130-9-1**] 12:28 PM
   Sheath - [**2130-9-1**] 12:29 PM
   PA Catheter - [**2130-9-1**] 01:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 45 minutes of critical care time.
   Additional comments:
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6349**] and [**Doctor Last Name 10385**] (admission
   notes from yesterday)
   I would add the following remarks:
   Total time spent on patient care: 45 minutes of critical care time.
   Additional comments:
   Critically ill due to acute anterior MI, acute systolic and diastolic
   CHF, need for IABP, acute respiratory faiulre, acute renal failure.
   Date/time was 9/26/9 at 1300
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2130-9-3**] 08:20 ------

2130-09-03 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-9-2**] 10:47 AM
 CARDIAC ARREST - At [**2130-9-2**] 07:32 PM
   FeNa 0.33 % --> prerenal
   tanked up with fluid to increase PAd prior to weaning IABP. weaned to
   1:2.
   Plts dropping rapidly.  High LDH, abnormally high PTT on low amts
   heparin --> sent DIC labs, periph smear.  (will be low yield given 2
   units blood)
   rapid then slow a fib -- no pulse.  code called, cpr initiated.
   patient regained pulse.  unclear from strip whether v tach or a fib
   with aberrancy so no shock.  family called and informed -- came in
   overnight and stated DNR status...not cmo but do not escalate care.
   Dopamine continued, BP stabilized.  Midnight labs showed Hct drop from
   28 --> 22.  given 1 unit blood. (26.4 this AM).
   Given 3 L IVF overnight (after code)
   [**9-2**] BCx Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.  (2 of 4 bottles).
   Had 1 dose vancomycin yesterday AM.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Wheezing;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Codeine
   Lightheadedness
   Aspirin
   Unknown;
   Ranitidine
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2130-9-2**] 10:00 AM
   Cefipime - [**2130-9-2**] 12:27 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Heparin Sodium - 400 units/hour
   Dopamine - 12.5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2130-9-3**] 02:16 AM
   Pantoprazole (Protonix) - [**2130-9-3**] 05:26 AM
   Carafate (Sucralfate) - [**2130-9-3**] 05:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-9-3**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 102 (69 - 135) bpm
   BP: 104/41(75) {60/24(40) - 179/68(114)} mmHg
   RR: 23 (7 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 18 (8 - 18)mmHg
   PAP: (61 mmHg) / (18 mmHg)
   CO/CI (Fick): (10.5 L/min) / (5.8 L/min/m2)
   Mixed Venous O2% Sat: 64 - 82
                                Total In:
                                                                  6,901 mL
                                                                  2,831 mL
   PO:
                                TF:
   IVF:
                                                                  6,526 mL
                                                                  2,505 mL
   Blood products:
                                                                    375 mL
                                                                    276 mL
   Total out:
                                                                    260 mL
                                                                    115 mL
   Urine:
                                                                    260 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,641 mL
                                                                  2,716 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.26/32/95.[**Numeric Identifier 607**]/14/-11
   Ve: 7.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), Irregular
   Unable to appreciate murmur, IABP heard obscuring some heart sounds.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: ), Anterior exam only
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, UE edema b/l.   Right femoral A line with pressure
   dressing in place.  Left femoral IABP in place.
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   64 K/uL
   9.0 g/dL
   156 mg/dL
   2.4 mg/dL
   14 mEq/L
   4.7 mEq/L
   69 mg/dL
   115 mEq/L
   138 mEq/L
   26.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2130-9-2**]  04:23 AM
                             [**2130-9-2**]  04:52 AM
                             [**2130-9-2**]  09:38 AM
                             [**2130-9-2**]  09:43 AM
                             [**2130-9-2**]  12:36 PM
                             [**2130-9-2**]  04:10 PM
                             [**2130-9-2**]  08:02 PM
                             [**2130-9-2**]  10:46 PM
                             [**2130-9-3**]  04:36 AM
                             [**2130-9-3**]  05:01 AM
   WBC
   10.8
   10.9
   8.5
   10.5
   Hct
   29.4
   26.5
   28.2
   22.4
   26.5
   Plt
   132
   99
   66
   64
   Cr
   2.3
   2.3
   2.4
   TropT
   21.69
   TCO2
   20
   19
   13
   15
   Glucose
   327
   286
   156
   Other labs: PT / PTT / INR:14.5/53.2/1.3, CK / CKMB /
   Troponin-T:1872/75/21.69, ALT / AST:242/424, Alk Phos / T Bili:61/0.9,
   Differential-Neuts:80.5 %, Lymph:13.7 %, Mono:5.3 %, Eos:0.2 %,
   Fibrinogen:447 mg/dL, Lactic Acid:0.9 mmol/L, LDH:1314 IU/L, Ca++:7.6
   mg/dL, Mg++:2.4 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 88 year old female with DM, HTN who presented with
   STEMI and was brought emergently to cath lab.
   .
   # Shock with mixed cardiogenic and septic physiology -> CO and CI high,
   SVR low.  Pt systemically vasodilated.
   - will attempt to wean IABP: will discuss with family prior to pulling
   pump, as it could precipitation bradycardia, vagal reflex, bleeding,
   etc.
   - will continue dopamine, titrate to MAP in 60s.   IVF as needed.  Per
   discussion with family, will not add another pressor if needed for BP
   support
   - will transfuse PRBCs as needed
   - continue abx with vanc/cefepime for now, plan to pull lines when
   patient more stable
   .
   # RHYTHM: Sinus. Patient has history of A Fib, patient presumably on
   Verapamil for rate control. No anti-coagulation due to prior history of
   GI bleed.   ECG now showing left axis deviation and RBB block -> pt
   likely has left anterior fascicular block and RBB block, and is at high
   risk to develop complete heart block.  Overnight, patient
   intermittently in A fib with fast then slow ventricular response.
   Tends to become hypotensive when rapid or brady.
   - EP consulted, recs appreciated.  No indication for pacemaker at
   present.
   - serial ECGs
   - will continue to monitor and hold off on starting antiarrhythmics at
   present
   .
   # Blood Cx positive: As above, will continue abx, IV fluids for now.
   Will pull lines when patient more stable.
   .
   # Coagulopathy: labs reflect low grade DIC with declining plts.
   - will continue to monitor Hct and Plts, replete as needed
   # CORONARIES: Patient presented with STEMI. During cath patient had
   successful thrombectomy of proximal LAD occlusion with 20% residual
   stenosis. However, developed acute occlusion of OM (due to an embolus)
   treated with thrombectomy and PTCA (2.5x12mm balloon) with a 60%
   residual thrombotic occlusion but restoration of flow. Patient was
   unstable during procedure and consequently was intubated and IABP
   placed. No stent was placed during procedure.
   - Continue integrillin 18 hours post cath -> now discontinued
   - Continue heparin while on IABP
   - Patient on Atorvastatin 10 mg outpatient, increase to 80 mg in
   setting of ACS
   - Continue dopamine for goal MAP 60, attempt to wean -> unable to wean
   overnight
   - will attempt to wean IABP today, will reach goal PA diastolic
   pressure of 25 via volume, then attempt to wean to 1:2, obtain SvO2,
   PaO2, and Hb and calculate cardiac index; if data shows stability, will
   continue 1:4, 1:8 as able
   - if pt tolerates 1:8 for 2 hours, will switch off heparin, switch to
   1:1, and remove IABP
   - Hold outpatient Lisinopril 10 mg due to hypotension
   - No B-blocker due to hypotension
   - Start ASA 325 mg
   - Start plavix in am for 12 months (however no stent placed)
   .
   # PUMP: ECHO s/p cath demonstrates EF 45% with mild regional left
   ventricular systolic dysfunction and dilated right ventricle with
   moderate regional systolic dysfunction. New changes secondary to ACS.
   Repeat TTE shows little change while on IABP 1:1
   - Patient will require ACE-I and B-blocker as outpatient, however cont
   to hold due to hypotension
   - Held outpatient Lasix 20 mg qd due to hypotension, no sign of volume
   overload
   .
   # Upper GI bleed: EGD demonstrates friable esophagus with blood clot at
   GE junction. Patient's HCT and hemodynamics currently stable. Due to
   ballon pump patient must remain on heparin anti-coagulation.
   Integrelin stopped this AM.
   - IV PPI [**Hospital1 **], carafate slurry 1 g QID, reglan per GI
   - appreciate GI recs -> if UGIB recurs, will contact GI for possible
   repeat endoscopy. Patient may require Sang-[**Doctor Last Name 4220**] tube
   - IR aware of pt, can contact if need for emergent embolization
   - q4hr HCT -> 26 this AM, will transfuse 2 units today
   - cross match 4 units
   - wean ballon pump today in order to stop heparin  .
   .
   # Diabetes: Insulin drip
   .
   # Hypertension: Hold outpatient Lisinopril, Lasix and Verapamil
   .
   # Chronic Renal Failure: Recent creatinine range as outpatient 1.3 -
   1.9.  Pt now has [**Last Name (un) **] this morning.  Possible etiologies include
   pre-renal physiology, cholesterol emboli, contrast-induced nephropathy,
   ATN, and IABP renal artery obstruction (unlikely given current
   position)
   - renal dose all meds
   - will ensure volume repletion with goal PA diastolic pressure of 25
   mmHg
   - monitor crea
   .
   # Asthma: Patient intubated.
   .
   # Gout: Hold Allopurinal in acute setting.
   .
   # GERD: IV PPI fo now, transition to po when stable.
   .
   FEN: NPO
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip, pneumo boots when heparin drip
   discontinued
   -Bowel regimen with senna, colace
   .
   CODE: DNR - confirmed with [**Last Name (un) **].  [**Name (NI) 440**] discussed with family
   escalation of care, but will not withdraw any care at present.  Not
   CMO.  Continue current management.
   .
   COMM: [**Name (NI) 2729**] [**Name2 (NI) 10371**] [**Telephone/Fax (1) 10372**], [**Name2 (NI) 9565**] [**Telephone/Fax (1) 10373**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-9-1**] 12:04 PM
   Arterial Line - [**2130-9-1**] 12:28 PM
   IABP line - [**2130-9-1**] 12:28 PM
   Sheath - [**2130-9-1**] 12:29 PM
   PA Catheter - [**2130-9-1**] 01:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2130-09-04 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ST elevation MI s/p cath with evidence of LAD clot
   which traveled to left circ during cath procedure.  Currently with
   intra-aortic balloon pump.  Also with hx of UGI bleed and cardiac
   arrest during this hospitalization.  Now with septic physiology.
   24 Hour Events:
   -platelets stable in high 40s
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Wheezing;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Codeine
   Lightheadedness
   Aspirin
   Unknown;
   Ranitidine
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2130-9-3**] 10:28 AM
   Cefipime - [**2130-9-3**] 11:45 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Heparin Sodium - 550 units/hour
   Dopamine - 15.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-9-4**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 90 (76 - 110) bpm
   BP: 107/43(70) {84/25(57) - 119/43(85)} mmHg
   RR: 7 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 17 (11 - 19)mmHg
   PAP: (14 mmHg) / (11 mmHg)
   CO/CI (Fick): (7 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  4,551 mL
                                                                    607 mL
   PO:
   TF:
   IVF:
                                                                  3,875 mL
                                                                    487 mL
   Blood products:
                                                                    626 mL
   Total out:
                                                                    695 mL
                                                                     75 mL
   Urine:
                                                                    695 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,856 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.23/32/117/13/-13
   Ve: 6.6 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, anasarcic
   Head, Ears, Nose, Throat: ET tube in place
   Cardiovascular: irregular rate, no MRG
   Peripheral Vascular: 2+ radial pulses
   Respiratory / Chest: CTA bilaterally anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: 1+ bilateral LE edema
   Skin:  Warm
   Neurologic: Opens eyes to voice, cannot follow commands.
   Labs / Radiology
   48 K/uL
   9.5 g/dL
   138 mg/dL
   2.8 mg/dL
   13 mEq/L
   4.8 mEq/L
   79 mg/dL
   111 mEq/L
   133 mEq/L
   27.4 %
   11.1 K/uL
         [image002.jpg]
                             [**2130-9-2**]  10:46 PM
                             [**2130-9-3**]  04:36 AM
                             [**2130-9-3**]  05:01 AM
                             [**2130-9-3**]  01:27 PM
                             [**2130-9-3**]  03:58 PM
                             [**2130-9-3**]  09:22 PM
                             [**2130-9-3**]  09:59 PM
                             [**2130-9-3**]  10:15 PM
                             [**2130-9-4**]  04:10 AM
                             [**2130-9-4**]  04:12 AM
   WBC
   8.5
   10.5
   11.4
   12.3
   11.1
   Hct
   22.4
   26.5
   29.6
   28.7
   27.4
   Plt
   66
   64
   52
   49
   48
   Cr
   2.4
   2.8
   TCO2
   15
   15
   14
   14
   14
   Glucose
   156
   138
   Other labs: PT / PTT / INR:13.7/66.7/1.2, CK / CKMB /
   Troponin-T:1872/75/21.69, ALT / AST:176/191, Alk Phos / T Bili:68/0.9,
   Differential-Neuts:80.5 %, Lymph:13.7 %, Mono:5.3 %, Eos:0.2 %,
   Fibrinogen:633 mg/dL, Lactic Acid:0.9 mmol/L, LDH:1148 IU/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 88 year old female with DM, HTN who presented with
   STEMI and was brought emergently to cath lab, currently intubated on
   pressors being weaned off a balloon pump, also with coag positive staph
   bacteremia.
   .
   # Shock with mixed cardiogenic and septic physiology -> CO and CI high,
   SVR low.  Pt systemically vasodilated.
   - Poor prognosis discussed with family, pt made [**Year (4 digits) 617**].
   - Will wean IABP.  Will not escalate care after pulling IABP.
   - Will titrate down dopamine.
   - Will not further transfuse PRBCs
   - continue abx with vanc/cefepime for now
   .
   # RHYTHM: Sinus. Patient has history of A Fib, on Verapamil for rate
   control. No anti-coagulation due to prior history of GI bleed.   ECG
   now showing left axis deviation and RBB block -> pt likely has left
   anterior fascicular block and RBB block, and is at high risk to develop
   complete heart block.  Overnight, patient intermittently in A fib with
   fast then slow ventricular response.  Tends to become hypotensive when
   rapid or brady.
   - EP consulted, recs appreciated.  No indication for pacemaker at
   present.
   - serial ECGs
   - will continue to monitor and hold off on starting antiarrhythmics at
   present
   .
   # Blood Cx positive: As above, will continue abx, IV fluids for now.
   Will pull lines when patient more stable.
   .
   # Coagulopathy: labs reflect low grade DIC with declining plts, however
   now stable in high 40s
   - Will continue to monitor Hct and Plts, expect improvement with d/c of
   IABP
   # CORONARIES: Patient presented with STEMI. During cath patient had
   successful thrombectomy of proximal LAD occlusion with 20% residual
   stenosis. However, developed acute occlusion of OM (due to an embolus)
   treated with thrombectomy and PTCA (2.5x12mm balloon) with a 60%
   residual thrombotic occlusion but restoration of flow. Patient was
   unstable during procedure and consequently was intubated and IABP
   placed. No stent was placed during procedure.
   - Continue heparin while on IABP
   - Patient on Atorvastatin 10 mg outpatient, increase to 80 mg in
   setting of ACS
   - Continue dopamine for goal MAP 60, attempt to wean -> unable to wean
   overnight
   - will attempt to wean IABP today, 1:8 as able
   - if pt tolerates 1:8 for 2 hours, will switch off heparin, switch to
   1:1, and remove IABP
   - Holding outpatient Lisinopril 10 mg due to hypotension
   - No B-blocker due to hypotension
   - Continue ASA 325 mg
   - Continue plavix in am for 12 months (however no stent placed)
   .
   # PUMP: ECHO s/p cath demonstrates EF 45% with mild regional left
   ventricular systolic dysfunction and dilated right ventricle with
   moderate regional systolic dysfunction. New changes secondary to ACS.
   Repeat TTE shows little change while on IABP 1:1.
   - Patient will require ACE-I and B-blocker as outpatient, however cont
   to hold due to hypotension
   - Held outpatient Lasix 20 mg qd due to hypotension, no signs of volume
   overload currently
   .
   # Upper GI bleed: EGD demonstrates friable esophagus with blood clot at
   GE junction. Patient's HCT and hemodynamics currently stable. Due to
   ballon pump patient must remain on heparin anti-coagulation.
   Integrelin stopped this AM.
   - IV PPI [**Hospital1 **], sucralafate 1 g QID, reglan per GI
   - appreciate GI recs -> if UGIB recurs, will contact GI for possible
   repeat endoscopy. Patient may require Sang-[**Doctor Last Name 4220**] tube
   - IR aware of pt, can contact if need for emergent embolization
   - follow crit, has been stable
   - 4 units cross-matched
   - wean ballon pump today in order to stop heparin  .
   .
   # Diabetes: continue insulin gtt
   .
   # Hypertension: Hold outpatient Lisinopril, Lasix and Verapamil for now
   .
   #Acute on Chronic Renal Failure: Recent creatinine range as outpatient
   1.3 - 1.9.  Pt now with creatinine to 2.8.  Possible etiologies include
   pre-renal physiology, cholesterol emboli, contrast-induced nephropathy,
   ATN, and IABP renal artery obstruction (unlikely given current
   position).  Renal failure is likely contributing to acidotic state.
   - renal dose all meds
   - will ensure volume repletion with goal PA diastolic pressure of 25
   mmHg
   - monitor creatinine
   .
   # Asthma: Patient intubated.
   .
   # Gout: Hold Allopurinal in acute setting.
   .
   # GERD: IV PPI fo now, transition to po when stable.
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   18 Gauge - [**2130-9-1**] 12:04 PM
   Arterial Line - [**2130-9-1**] 12:28 PM
   IABP line - [**2130-9-1**] 12:28 PM
   Sheath - [**2130-9-1**] 12:29 PM
   PA Catheter - [**2130-9-1**] 01:46 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  IV pantoprazole
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: Daughters [**Name (NI) 10371**] [**Telephone/Fax (1) 10372**], [**Name2 (NI) 9565**]
   [**Telephone/Fax (1) 10373**]
   Code status: DNR/DNI, [**Telephone/Fax (1) 617**]
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 35 minutes. Greater than 50% time
   counseling / coordinating care.
   Additional comments:
   Due to overwhelming nature of patient's illness and near-impossibility
   of chance of reasonable recovery, along with her stated wishes
   (confirmed by family) to not have extreme end of life measures, we will
   withdraw the current intensive level of care and make the patient
   comfortable. Family meeting (including Dr. [**First Name (STitle) 3342**] and Nurse [**Last Name (Titles) 9070**])
   during which family agreed with this plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2130-9-4**] 16:48 ------